US07846929B2
55 mg of 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine was reacted with 26 mg of methoxyacetyl chloride via General Procedure G to give N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-2-methoxyacetamide.

reactant | 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 55 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
reactant | methoxyacetyl chloride | 26 mg | COCC(=O)Cl | C3H5ClO2
product | N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-2-methoxyacetamide | ClC=1N=C(C2=C(N1)C=C(S2)NC(COC)=O)N2CCOCC2 | C13H15ClN4O3S
